US06861419B2
Pyridine (4.8 mL, 60 mmol, 12 eq) was added under nitrogen to a mixture of chromium trioxide (fresh, 2 g, 20 mmol) in dry methylene chloride (15 mL) cooled over an ice bath. The mixture was stirred at 0° C. for 1 hour and Celite powder (1 g) and a solution of (2-methoxy-4-methylsulfanyl-phenyl)-methanol (934 mg, 5.07 mmol) in methylene chloride (10 mL) was added. The progress of the reaction was followed by TLC (silica gel, hexane-EtOAc-CH2Cl2-acetone (3:3:3:1 v/v) and hexane-ethyl acetate (7:3 v/v)) and analytical HPLC and when complete, the mixture was applied to a silica gel column (made up in hexane) and the column eluted with methylene chloride. Pure fractions were combined and concentrated to provide 2-methoxy-4-methylsulfanyl-benzaldehyde (730 mg, 79%). LCMS: MH+ 183.2.

reactant | Pyridine | 60 mmol, 4.8 mL, 12 eq | N1=CC=CC=C1 | C5H5N
reactant | (2-methoxy-4-methylsulfanyl-phenyl)-methanol | 5.07 mmol, 934 mg | COC1=C(C=CC(=C1)SC)CO | C9H12O2S
reactant | hexane EtOAc CH2Cl2 acetone | CCCCCC.CCOC(=O)C.C(Cl)Cl.CC(=O)C
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
catalyst | chromium trioxide | 20 mmol, 2 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2-methoxy-4-methylsulfanyl-benzaldehyde | 730 mg, 79% | COC1=C(C=O)C=CC(=C1)SC | C9H10O2S
